US07148226B2
3-[3-Chloro-4-(cyclopropylmethoxy)phenyl]-1-cyclopentylpropan-1-one
A solution of 3-(3-chloro-4-hydroxyphenyl)-1-cyclopentylpropan-1-one ((25 g, 0.099 mol, from Step 2) in 1:1 DMF/CH3CN (200 mL) was treated with K2CO3 (15 g, 0.109 mol, 1.1 equiv), and the mixture stirred for 15 min. A solution of (bromomethyl)cyclopropane (17.4 g, 0.129 mol, 1.3 equiv) in DMF (50 mL) was added dropwise, and the reaction mixture heated to 100° C. for 1 h. The volatiles were removed in vacuo. The residue was dissolved in a minimal amount of ethyl acetate, and this solution washed with water, dried over Na2SO4, filtered, and evaporated. Chromatographic purification of the residue on silica gel using hexanes/ethyl acetate afforded 29.12 g (96%) of the title compound.

reactant | 3-(3-chloro-4-hydroxyphenyl)-1-cyclopentylpropan-1-one | ClC=1C=C(C=CC1O)CCC(=O)C1CCCC1 | C14H17ClO2
reactant | DMF CH3CN | 200 mL | CN(C)C=O.CC#N
reactant | K2CO3 | 0.109 mol, 15 g, 1.1 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | (bromomethyl)cyclopropane | 0.129 mol, 17.4 g, 1.3 equiv | BrCC1CC1 | C4H7Br
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-[3-Chloro-4-(cyclopropylmethoxy)phenyl]-1-cyclopentylpropan-1-one | 29.12 g, 96% | ClC=1C=C(C=CC1OCC1CC1)CCC(=O)C1CCCC1 | C18H23ClO2
